US08669361B2
In a microwave reaction vessel equipped with stir bar was charged 2-(5-bromo-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (300 mg, 0.9 mmol), cyclopropylboronic acid (220 mg, 2.6 mmol), palladium acetate (14 mg, 0.06 mmol), S-Phos (50 mg, 0.12 mmol) and potassium phosphate (560 mg, 2.6 mmol). Degassed toluene (15 mL) was added. The reaction was heated under microwave at 120° C. for 15 min. LCMS indicated completion of the reaction. The mixture was diluted with acetonitrile and filtered through a pad of Celite and washed with copious amount of acetonitrile. The filtrate was concentrated in vacuo and the residue was absorbed on Celite from an acetone solution. The resulting powder was subjected to Isco flash chromatography eluted with 0 to 70% acetonitrile in ether to give a light yellow oil, 2-(5-cyclopropyl-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (167 mg, 60%).

reactant | 2-(5-bromo-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 0.9 mmol, 300 mg | BrC=1C=C(C(=C(C1)B1OC(CN(CC(O1)=O)C)=O)F)C | C12H12BBrFNO4
reactant | cyclopropylboronic acid | 2.6 mmol, 220 mg | C1(CC1)B(O)O | C3H7BO2
reactant | S-Phos | 0.12 mmol, 50 mg | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 2.6 mmol, 560 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | palladium acetate | 0.06 mmol, 14 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(5-cyclopropyl-2-fluoro-3-methylphenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 167 mg, 60% | C1(CC1)C=1C=C(C(=C(C1)B1OC(CN(CC(O1)=O)C)=O)F)C | C15H17BFNO4
